US04287341
4-Acetoxy-3-methoxybenzaldehyde (IV)
Triethylamine (2.8 liters, 20.1 moles) was added dropwise to a solution of vanillin (2.00 kg., 13.15 moles) and acetic anhydride (2.6 liters, 27.5 moles) in methylene chloride (11.3 liters) maintaining temperature below 25° C. After adding 4-dimethylaminopyridine (20 g.) the solution was stirred at room temperature for 30 minutes. The reaction mixture was washed twice with water, followed by 20% (w/w) hydrochloric acid and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo to 8 liters. Hexane (15 liters) was added slowly while removing remaining methylene chloride. After cooling, 2.45 kg. (96% yield) product was filtered off. Recrystallization of a small sample from anhydrous ether gave the acetate as fine yellow needles, M.P. 76°-78° C.

reactant | Triethylamine | 20.1 moles, 2.8 liters | C(C)N(CC)CC | C6H15N
reactant | vanillin | 13.15 moles, 2.00 kg | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | acetic anhydride | 27.5 moles, 2.6 liters | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 11.3 liters | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Acetoxy-3-methoxybenzaldehyde | 96% yield | C(C)(=O)OC1=C(C=C(C=O)C=C1)OC | C10H10O4
